US04302599
Prepare a solution of 260 ml. of 30-33% oleum and 20 g. of 90% nitric acid. Cool the solution to 0° and add in small portion 60.5 g. of metabromo isobutyranilide. Maintain the reaction at 0°-5° C. for an additional 30 minutes with agitation. Isolate the product by the procedure described in Example 1 to obtain 3'-bromo-4'-nitro-isobutyranilide.

reactant | oleum | OS(=O)(=O)O.O=S(=O)=O
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | metabromo isobutyranilide | BrC=1C=C(NC(C(C)C)=O)C=CC1 | C10H12BrNO
product | 3'-bromo-4'-nitro-isobutyranilide | BrC=1C=C(NC(C(C)C)=O)C=CC1[N+](=O)[O-] | C10H11BrN2O3
